US04963590
3,4-Dihydroxy-5-cyanobenzoic acid
To a solution containing 2.3 g of 4-acetoxy-3-cyano-5-methoxybenzoic acid in 10 ml of dichloromethane 40 ml of 1 molar PBr3 in dichloromethane was added. The mixture was stirred over night at room temperature. The solvent was evaporated in vacuo and to the residue ice-water was added.

reactant | 4-acetoxy-3-cyano-5-methoxybenzoic acid | 2.3 g | C(C)(=O)OC1=C(C=C(C(=O)O)C=C1OC)C#N | C11H9NO5
reactant | PBr3 | 1 molar | P(Br)(Br)Br | Br3P
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3,4-Dihydroxy-5-cyanobenzoic acid | OC=1C=C(C(=O)O)C=C(C1O)C#N | C8H5NO4
